US09210927B2
Step 2. 1-Isopropyl-N-(2,2,2-trifluoroethyl)hydrazinecarboxamide hydrochloride
HCl (4 M in dioxane, 10 mL) was added to a stirred solution of tert-butyl N-[isopropyl(2,2,2-trifluoroethylcarbamoyl)amino]carbamate (530 mg, 1.77 mmol) in 1,4-dioxane (5 mL) at 0° C. and the reaction mixture was stirred at ambient temperature for 2 h. The volatiles were evaporated and the residue was washed with pentane to afford the title compound as a pale yellow solid. (360 mg, crude): 1H NMR (300 MHz, DMSO-d6) δ 11.2 (bs, 2H), 9.81 (s, 1H), 6.98 (t, J=6.3 Hz, 1H), 3.90-3.80 (m, 2H), 3.07-3.03 (m, 1H), 1.18 (d, J=6.6 Hz, 6H); 13C NMR (300 MHz, DMSO-d6) δ 157.06, 126.90, 52.25, 45.33, 17.49; 19F NMR (300 MHz, DMSO-d6) δ −71.52; ESIMS m/z 200.0 ([M−HCl]+).

reactant | HCl | 4 M, 10 mL | Cl | ClH
reactant | tert-butyl N-[isopropyl(2,2,2-trifluoroethylcarbamoyl)amino]carbamate | 1.77 mmol, 530 mg | C(C)(C)N(NC(OC(C)(C)C)=O)C(NCC(F)(F)F)=O | C11H20F3N3O3
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-Isopropyl-N-(2,2,2-trifluoroethyl)hydrazinecarboxamide hydrochloride | Cl.C(C)(C)N(N)C(=O)NCC(F)(F)F | InChI=1S/C6H12F3N3O.ClH/c1-4(2)12(10)5(13)11-3-6(7,8)9;/h4H,3,10H2,1-2H3,(H,11,13);1H
